US06667303B1
Step 3: 2,2-Dipropyl-6-bromo-1,2-dihydroacenaphthylen-1-one:
To a heat dried 8 ml vial loaded with 6-bromo-1,2-dihydroacenaphthylen-1-one (100 mg, 0.41 mmol) and sodium hydride (49 mg, 0.4 mmol) was added 1 ml THF. Propyl iodide (230 μl, 0.4 mmol) was then added to the above purple solution and the mixture was stirred for 1 hour. The reaction was then quenched with 300 ml acetic acid followed by the addition of DCM. The precipitate formed was filtered off and the filtrate concentrated to dryness to give 2.5 grams (80%) of product. NMR and MS confirmed the product.

reactant | 6-bromo-1,2-dihydroacenaphthylen-1-one | 0.41 mmol, 100 mg | BrC1=C2C=CC=C3CC(C(C=C1)=C32)=O | C12H7BrO
reactant | sodium hydride | 0.4 mmol, 49 mg | [H-].[Na+]
reactant | Propyl iodide | 0.4 mmol, 230 μl | C(CC)I | C3H7I
reactant | THF | 1 ml | C1CCOC1 | C4H8O
product | 2,2-Dipropyl-6-bromo-1,2-dihydroacenaphthylen-1-one | 2.5 grams, 80% | C(CC)C1(C(C=2C=CC(=C3C=CC=C1C23)Br)=O)CCC | C18H19BrO
